.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-1N9
* Inductance = 1.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-1N9_freq port1 port2 PARAMS: Cpar=0.095pF Ind=1.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=1.96
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000506
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7966.633837
.ends 0403HQ-1N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-1N9
* Inductance = 1.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-1N9_imp port1 port2 PARAMS: Cpar=0.095pF Ind=1.9nH
X1 port1 port2 Model1D PARAMS:
+ R1=1.96
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000506
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7966.633837
.ends 0403HQ-1N9_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-2N1
* Inductance = 2.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-2N1_freq port1 port2 PARAMS: Cpar=0.078pF Ind=2.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=1.5
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000646
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12126.04567
.ends 0403HQ-2N1_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-2N1
* Inductance = 2.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-2N1_imp port1 port2 PARAMS: Cpar=0.078pF Ind=2.1nH
X1 port1 port2 Model1D PARAMS:
+ R1=1.5
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000646
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12126.04567
.ends 0403HQ-2N1_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N4
* Inductance = 3.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-3N4_freq port1 port2 PARAMS: Cpar=0.08pF Ind=3.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.02
+ C= {Cpar}
+ K1=0.00000824
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6244.028717
.ends 0403HQ-3N4_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N4
* Inductance = 3.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-3N4_imp port1 port2 PARAMS: Cpar=0.08pF Ind=3.4nH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.02
+ C= {Cpar}
+ K1=0.00000824
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6244.028717
.ends 0403HQ-3N4_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N7
* Inductance = 3.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-3N7_freq port1 port2 PARAMS: Cpar=0.085pF Ind=3.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.01
+ C= {Cpar}
+ K1=0.00000954
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6307.850101
.ends 0403HQ-3N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N7
* Inductance = 3.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-3N7_imp port1 port2 PARAMS: Cpar=0.085pF Ind=3.7nH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.01
+ C= {Cpar}
+ K1=0.00000954
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6307.850101
.ends 0403HQ-3N7_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-5N5
* Inductance = 5.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-5N5_freq port1 port2 PARAMS: Cpar=0.062pF Ind=5.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.16
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6769.201051
.ends 0403HQ-5N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-5N5
* Inductance = 5.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-5N5_imp port1 port2 PARAMS: Cpar=0.062pF Ind=5.5nH
X1 port1 port2 Model1D PARAMS:
+ R1=12.16
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6769.201051
.ends 0403HQ-5N5_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-6N6
* Inductance = 6.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-6N6_freq port1 port2 PARAMS: Cpar=0.072pF Ind=6.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=6.77
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000131
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11622.21266
.ends 0403HQ-6N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-6N6
* Inductance = 6.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-6N6_imp port1 port2 PARAMS: Cpar=0.072pF Ind=6.6nH
X1 port1 port2 Model1D PARAMS:
+ R1=6.77
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000131
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11622.21266
.ends 0403HQ-6N6_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-8N2_freq port1 port2 PARAMS: Cpar=0.068pF Ind=8.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=7.11
+ R2=0.185
+ C= {Cpar}
+ K1=0.0000167
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14221.86524
.ends 0403HQ-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-8N2_imp port1 port2 PARAMS: Cpar=0.068pF Ind=8.2nH
X1 port1 port2 Model1D PARAMS:
+ R1=7.11
+ R2=0.185
+ C= {Cpar}
+ K1=0.0000167
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14221.86524
.ends 0403HQ-8N2_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-9N0
* Inductance = 9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-9N0_freq port1 port2 PARAMS: Cpar=0.06pF Ind=9nH
X1 port1 port2 Model2A PARAMS:
+ R1=9.07
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000191
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14087.75735
.ends 0403HQ-9N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-9N0
* Inductance = 9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-9N0_imp port1 port2 PARAMS: Cpar=0.06pF Ind=9nH
X1 port1 port2 Model1D PARAMS:
+ R1=9.07
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000191
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14087.75735
.ends 0403HQ-9N0_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-12N_freq port1 port2 PARAMS: Cpar=0.06pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.34
+ R2=0.35
+ C= {Cpar}
+ K1=0.0000199
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14422.82545
.ends 0403HQ-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-12N_imp port1 port2 PARAMS: Cpar=0.06pF Ind=12nH
X1 port1 port2 Model1D PARAMS:
+ R1=12.34
+ R2=0.35
+ C= {Cpar}
+ K1=0.0000199
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14422.82545
.ends 0403HQ-12N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-15N_freq port1 port2 PARAMS: Cpar=0.049pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.76
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000315
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20180.62606
.ends 0403HQ-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-15N_imp port1 port2 PARAMS: Cpar=0.049pF Ind=15nH
X1 port1 port2 Model1D PARAMS:
+ R1=12.76
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000315
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20180.62606
.ends 0403HQ-15N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-18N_freq port1 port2 PARAMS: Cpar=0.053pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=11.02
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000383
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24670.16819
.ends 0403HQ-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-18N_imp port1 port2 PARAMS: Cpar=0.053pF Ind=18nH
X1 port1 port2 Model1D PARAMS:
+ R1=11.02
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000383
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24670.16819
.ends 0403HQ-18N_imp

